US05908955
Synthesis of Dodecyl 3-Amino-4-chlorobenzoate
17.2 g (0.1 mol) of 3-amino-4-chlorobenzoic acid was added to 50 ml of N,N-dimethylformamide. Then 13.8 g (0.1 mol) of potassium carbonate was added to the solution obtained above, and the resulting mixture was stirred in the temperature range of from 20 to 30° C. for 30 min. 27.4 g (0.11 mol) of dodecyl bromide was poured into the solution thus obtained, and the resulting solution was heated to 80° C., and allowed to react at the temperature for 1 hour. After completing the reaction, 50 ml of ethyl acetate, and 50 ml of water were added to the reaction mixture, and the organic layer was separated, concentrated, diluted with 100 ml of methanol, and then cooled to precipitate crystals. The crystals were separated by filtration, and then dried to obtain 32.3 g (yield 95%) of the desired product. Purity 99% or higher. Melting point 58.3-59.5° C. A result of the elemental analysis of this sample is as follows:

reactant | 3-amino-4-chlorobenzoic acid | 0.1 mol, 17.2 g | NC=1C=C(C(=O)O)C=CC1Cl | C7H6ClNO2
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | dodecyl bromide | 0.11 mol, 27.4 g | C(CCCCCCCCCCC)Br | C12H25Br
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Dodecyl 3-Amino-4-chlorobenzoate | 32.3 g, yield 95% | NC=1C=C(C(=O)OCCCCCCCCCCCC)C=CC1Cl | C19H30ClNO2
